US05403930
Ethyl 2-hydroxy-5-[[4-(4-methylphenoxysulfonyl)phenyl]ethynyl]benzoate
Ethyl 2-hydroxy-5-iodobenzoate (58.5 g, 0.2 mol), 4-methylphenyl 4-ethynylbenzenesulfonate (54.4 g, 0.2 mol) and triethylamine (40 g, 0.4 mol) were dissolved in tetrahydrofuran (100 g). The solution was heated to 50° C. and dichlorobis(triphenylphosphine)palladium (0.5 g, 0.72 mmol) and copper(I)iodide (1 g, 5.2 mmol) were) added simultaneously with stirring. The reaction mixture turned dark and triethylamine hydroiodide started to precipitate after about 10 min. After keeping at 45° C. for 45 min, the suspension was poured into dilute hydrochloric acid and the mixture was extracted with toluene. The toluene solution was evaporated to dryness. The residue was triturated with acetonitrile, filtered off and dried. Yield 73 g, (84%). The pooled material from several batches (270 g) was recrystallized from acetonitrile (1.2 l). Yield 250 g.

reactant | Ethyl 2-hydroxy-5-iodobenzoate | 0.2 mol, 58.5 g | OC1=C(C(=O)OCC)C=C(C=C1)I | C9H9IO3
reactant | 4-methylphenyl 4-ethynylbenzenesulfonate | 0.2 mol, 54.4 g | C(#C)C1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C | C15H12O3S
reactant | triethylamine | 0.4 mol, 40 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydroiodide | I.C(C)N(CC)CC
solvent | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.72 mmol, 0.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 5.2 mmol, 1 g | [Cu]I
product | Ethyl 2-hydroxy-5-[[4-(4-methylphenoxysulfonyl)phenyl]ethynyl]benzoate | OC1=C(C(=O)OCC)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C | C24H20O6S
